US08685974B2
A mixture of 1-(4-bromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one (43.5 mmol) and hydrazine hydrate (86.9 mmol) in 50 mL ethanol was refluxed for 18 h and then allowed to cool to room temperature. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic phase was successively washed with saturated aqueous ammonium chloride solution, saturated aqueous sodium bicarbonate solution and brine, dried over MgSO4, filtered and concentrated to afford 9.74 g (94% yield) 3-(4-bromo-2-thienyl)-1H-pyrazole which was used in the next step without further purification.

reactant | 1-(4-bromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 43.5 mmol | BrC=1C=C(SC1)C(C=CN(C)C)=O | C9H10BrNOS
reactant | hydrazine hydrate | 86.9 mmol | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(4-bromo-2-thienyl)-1H-pyrazole | 9.74 g, 94% yield | BrC=1C=C(SC1)C1=NNC=C1 | C7H5BrN2S
